** sch_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_ak_ip__comparator/xschem/sky130_ak_ip__comparator.sch
**.subckt sky130_ak_ip__comparator DVDD AVDD AGND Vinp Vout Vinm en hyst[1] hyst[0] trim[5] trim[4] trim[3] trim[2] trim[1] trim[0]
+ ibias DGND
*.PININFO Vinp:I Vinm:I AVDD:I AGND:I en:I hyst[1:0]:I trim[5:0]:I Vout:O DGND:I ibias:I DVDD:I
XM7 bias_n bias_n AGND AGND sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 m=2
XM6 Vfold_p Vinm Vxm AGND sky130_fd_pr__nfet_g5v0d10v5 L=1.5 W=8 nf=1 m=28
XM2 net1 bias_n AGND AGND sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 m=48
XM1 Vfold_m Vinp Vxm AGND sky130_fd_pr__nfet_g5v0d10v5 L=1.5 W=8 nf=1 m=28
XM4 net4 bias_var_tailp AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=4 W=2 nf=1 m=96
XM5 Vfold_bot_p Vinm Vxp AVDD sky130_fd_pr__pfet_g5v0d10v5 L=1.5 W=8 nf=1 m=28
XM17 Vfold_bot_m Vinp Vxp AVDD sky130_fd_pr__pfet_g5v0d10v5 L=1.5 W=8 nf=1 m=28
XM22 net2 bias_stg2 AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=4 W=2 nf=1 m=4
XM23 Vom_stg2 Vop net2 AVDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=4 nf=1 m=1
XM24 Vop_stg2 Vom net2 AVDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=4 nf=1 m=1
XM25 Vop_stg2 Vop_stg2 AGND AGND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=2
XM26 Vom_stg2 Vom_stg2 AGND AGND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=2
XM27 net3 Vom_stg2 DGND DGND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=2
XM28 Vdiff Vop_stg2 DGND DGND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=2
XM29 Vdiff net3 DVDD DVDD sky130_fd_pr__pfet_01v8 L=1 W=4 nf=1 m=2
XM30 net3 net3 DVDD DVDD sky130_fd_pr__pfet_01v8 L=1 W=4 nf=1 m=2
XM31 Vout_int Vdiff DVDD DVDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 m=1
XM44 Vout_int Vdiff DGND DGND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 m=1
XM45 net52 ibias bias_n AGND sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 m=1
XM48 bias_n enb_hv AGND AGND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=4 nf=1 m=4
XM40 net11 bias_n net5 AGND sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 m=8
XM53 Vfold_p Voutb Vx_hyst_n AGND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=8
XM54 Vfold_m Vout_int Vx_hyst_n AGND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=8
XM73 net12 bias_n net24 AGND sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 m=3
XM75 Voutb Vout_int DVDD DVDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 m=1
XM76 Voutb Vout_int DGND DGND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 m=1
XM90 Vxm casc_n net1 AGND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=48
XM91 Vxp casc_p net4 AVDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=2 nf=1 m=96
XM94 net10 bias_n AGND AGND sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 m=2
XM95 bias_p bias_p AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=4 W=2 nf=1 m=4
XM16 net5 hyst1_hv AGND AGND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=2 nf=1 m=8
XM33 net24 hyst0_hv AGND AGND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=2 nf=1 m=3
XM67 Vop_stg2 Vom_stg2 AGND AGND sky130_fd_pr__nfet_g5v0d10v5 L=2 W=0.5 nf=1 m=1
XM69 Vom_stg2 Vop_stg2 AGND AGND sky130_fd_pr__nfet_g5v0d10v5 L=2 W=0.5 nf=1 m=1
XM15 bias_p en_hv AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=4 nf=2 m=4
x2 AVDD trim2b_hv trim2_hv trim[2] AGND DVDD DGND level_shifter_up
x4 AVDD trim1b_hv trim1_hv trim[1] AGND DVDD DGND level_shifter_up
x5 AVDD trim0b_hv trim0_hv trim[0] AGND DVDD DGND level_shifter_up
x6 AVDD enb_hv en_hv en AGND DVDD DGND level_shifter_up
x7 AVDD hyst1b_hv hyst1_hv hyst[1] AGND DVDD DGND level_shifter_up
x8 AVDD hyst0b_hv hyst0_hv hyst[0] AGND DVDD DGND level_shifter_up
XM32 Vdiff enb_hv DGND DGND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=2 nf=1 m=4
XM34 casc_n bias_n AGND AGND sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 m=2
XM36 AVDD ibias casc_n AGND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=2
XM3 Vfold_bot_p Vom AGND AGND sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 m=12
XM9 Vfold_p bias_p AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=4 W=2 nf=1 m=24
XM10 Vfold_p bias_var_p AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=4 W=2 nf=1 m=56
XM13 Vfold_bot_p bias_var_n AGND AGND sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 m=28
XM19 Vop casc_p Vfold_p AVDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=2 nf=1 m=80
XM21 Vop casc_n Vfold_bot_p AGND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=40
XM38 net7 Vinm net6 AGND sky130_fd_pr__nfet_g5v0d10v5 L=1.5 W=8 nf=1 m=1
XM39 net7 Vinp net6 AGND sky130_fd_pr__nfet_g5v0d10v5 L=1.5 W=8 nf=1 m=1
XM49 net7 bias_var_p AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=4 W=2 nf=1 m=4
XM60 net9 bias_var_p AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=4 W=2 nf=1 m=4
XM61 net8 bias_n AGND AGND sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 m=2
XM62 net50 bias_var_tailp AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=4 W=2 nf=1 m=4
XM68 net48 bias_var_tailp AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=4 W=2 nf=1 m=4
XM70 bias_var_n bias_var_n AGND AGND sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 m=2
XM8 Vfold_bot_m bias_var_n AGND AGND sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 m=28
XM11 Vfold_m bias_var_p AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=4 W=2 nf=1 m=56
XM12 Vfold_m bias_p AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=4 W=2 nf=1 m=24
XM14 Vfold_bot_m Vom AGND AGND sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 m=12
XM18 Vom casc_p Vfold_m AVDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=2 nf=1 m=80
XM20 Vom casc_n Vfold_bot_m AGND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=40
XM84 bias_var_tailp casc_n net8 AGND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=2
XM85 bias_var_tailp casc_p net9 AVDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=2 nf=1 m=4
XM86 bias_p casc_n net10 AGND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=2
XM88 Vx_hyst_n casc_n net11 AGND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=8
XM89 Vfold_m net35 net29 AGND sky130_fd_pr__nfet_g5v0d10v5 L=1.5 W=8 nf=1 m=4
XM92 net13 bias_var_tailn AGND AGND sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 m=6
XM93 Vfold_p net34 net29 AGND sky130_fd_pr__nfet_g5v0d10v5 L=1.5 W=8 nf=1 m=4
XM97 net29 casc_n net13 AGND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=6
x1 AVDD trim3b_hv trim3_hv trim[3] AGND DVDD DGND level_shifter_up
XM63 net21 bias_n net19 AGND sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 m=1
XM99 net14 net15 AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=4 W=2 nf=1 m=2
XM101 net16 bias_n AGND AGND sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 m=2
XM102 net15 net15 net14 AVDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=2 nf=1 m=6
XM103 casc_p casc_p net14 AVDD sky130_fd_pr__pfet_g5v0d10v5 L=4 W=2 nf=1 m=4
XM104 casc_p casc_n net16 AGND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=2
XM105 net15 casc_n net20 AGND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=1
XM106 net17 bias_n AGND AGND sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 m=2
XM107 net6 casc_n net17 AGND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=2
XM96 net18 bias_n net22 AGND sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 m=1
XM108 net23 casc_n net18 AGND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=1
XM109 bias_var_p casc_p net7 AVDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=2 nf=1 m=4
XM57 net19 bias_n AGND AGND sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 m=1
XM112 net20 casc_n net21 AGND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=1
XM113 net22 bias_n AGND AGND sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 m=1
XM114 bias_var_p casc_n net23 AGND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=1
XM115 Vx_hyst_n casc_n net12 AGND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=3
XM118 net28 hyst0b_hv AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=2 nf=1 m=6
XM119 net27 bias_p net28 AVDD sky130_fd_pr__pfet_g5v0d10v5 L=4 W=2 nf=1 m=6
XM120 Vx_hyst_p casc_p net27 AVDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=2 nf=1 m=6
XM121 net25 hyst1b_hv AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=2 nf=1 m=16
XM122 net26 bias_p net25 AVDD sky130_fd_pr__pfet_g5v0d10v5 L=4 W=2 nf=1 m=18
XM123 Vx_hyst_p casc_p net26 AVDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=2 nf=1 m=18
XM124 Vfold_bot_p Voutb Vx_hyst_p AVDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=4 nf=1 m=8
XM125 Vfold_bot_m Vout_int Vx_hyst_p AVDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=4 nf=1 m=8
XM35 res_n_top res_n_top AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=4 W=4 nf=1 m=1
XM37 net31 bias_n net30 AGND sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 m=4
XM41 net32 bias_n net33 AGND sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 m=2
XM42 net30 trim1_hv AGND AGND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=2 nf=1 m=4
XM43 net33 trim0_hv AGND AGND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=2 nf=1 m=2
XM46 res_n_bot casc_n net31 AGND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=4
XM47 res_n_bot casc_n net32 AGND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=2
XM50 net35 trim2_hv res_n_top AVDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=16 nf=4 m=1
XM51 net34 trim2b_hv res_n_top AVDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=16 nf=4 m=1
XM52 net34 trim2_hv res_n_bot AVDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=16 nf=4 m=1
XM55 net35 trim2b_hv res_n_bot AVDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=16 nf=4 m=1
XM56 net36 bias_n AGND AGND sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 m=1
XM64 res_n_top casc_n net36 AGND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=1
XM65 net37 trim0_hv res_n_top AVDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=16 nf=4 m=1
XM66 res_n_bot trim1_hv net37 AVDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=16 nf=4 m=1
XR1 res_n_bot res_n_top AGND sky130_fd_pr__res_high_po_2p85 L=2.85*56 mult=1 m=1
XM71 net41 trim3b_hv AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=2 nf=1 m=2
XM72 net40 bias_p net41 AVDD sky130_fd_pr__pfet_g5v0d10v5 L=4 W=2 nf=1 m=4
XM74 res_p_top casc_p net40 AVDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=2 nf=1 m=4
XM80 net38 trim4b_hv AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=2 nf=1 m=4
XM81 net39 bias_p net38 AVDD sky130_fd_pr__pfet_g5v0d10v5 L=4 W=2 nf=1 m=8
XM82 res_p_top casc_p net39 AVDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=2 nf=1 m=8
XM83 Vfold_bot_m net46 net44 AVDD sky130_fd_pr__pfet_g5v0d10v5 L=1.5 W=8 nf=1 m=4
XM126 Vfold_bot_p net45 net44 AVDD sky130_fd_pr__pfet_g5v0d10v5 L=1.5 W=8 nf=1 m=4
XM127 net42 bias_var_tailp AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=4 W=2 nf=1 m=12
XM128 net44 casc_p net42 AVDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=2 nf=1 m=12
XM129 net43 bias_p AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=4 W=2 nf=1 m=2
XM130 res_p_bot casc_p net43 AVDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=2 nf=1 m=2
XR2 res_p_bot res_p_top AGND sky130_fd_pr__res_high_po_2p85 L=2.85*56 mult=1 m=1
XM131 res_p_bot res_p_bot AGND AGND sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 m=1
XM132 net45 trim5_hv res_p_top AGND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=16 nf=4 m=1
XM87 net49 bias_var_p AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=4 W=2 nf=1 m=4
XM98 bias_var_tailn bias_var_tailn AGND AGND sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 m=2
XM100 net46 trim5b_hv res_p_top AGND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=16 nf=4 m=1
XM135 res_p_bot trim5b_hv net45 AGND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=16 nf=4 m=1
XM133 res_p_bot trim5_hv net46 AGND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=16 nf=4 m=1
XM137 net47 trim4b_hv res_p_bot AGND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=16 nf=4 m=1
XM136 res_p_top trim3b_hv net47 AGND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=16 nf=4 m=1
x3 AVDD trim4b_hv trim4_hv trim[4] AGND DVDD DGND level_shifter_up
x9 AVDD trim5b_hv trim5_hv trim[5] AGND DVDD DGND level_shifter_up
XM134 net56 casc_p net48 AVDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=2 nf=1 m=4
XM138 net57 casc_p net49 AVDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=2 nf=1 m=4
XM139 net51 bias_p AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=4 W=2 nf=1 m=2
XM140 bias_var_tailp casc_p net50 AVDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=2 nf=1 m=4
XM141 net7 bias_p net51 AVDD sky130_fd_pr__pfet_g5v0d10v5 L=4 W=2 nf=1 m=2
Vmeas_var_tailp net56 bias_var_n 0
.save i(vmeas_var_tailp)
Vmeas_var_tailn net57 bias_var_tailn 0
.save i(vmeas_var_tailn)
XM77 net53 ibias net52 AGND sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 m=1
XM78 net54 ibias net53 AGND sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 m=1
XM79 ibias ibias net54 AGND sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 m=1
XM58 Vout Voutb DVDD DVDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 m=1
XM59 Vout Voutb DGND DGND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 m=1
XM110 AGND AGND AGND AGND sky130_fd_pr__nfet_g5v0d10v5 L=1.5 W=8 nf=1 m=34
XM111 AVDD AVDD AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=1.5 W=8 nf=1 m=36
XM116 AGND AGND AGND AGND sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 m=15
XM117 AGND AGND AGND AGND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=14
XM142 AVDD AVDD AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=4 W=2 nf=1 m=32
XM143 AVDD AVDD AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=2 nf=1 m=32
XR3 AGND AGND AGND sky130_fd_pr__res_high_po_2p85 L=2.85*11.2 mult=1 m=1
XM144 casc_n casc_n casc_n AGND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=11
XM145 net55 bias_n AGND AGND sky130_fd_pr__nfet_g5v0d10v5 L=4 W=2 nf=1 m=1
XM146 bias_stg2 casc_n net55 AGND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=1
XM147 bias_stg2 bias_stg2 AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=4 W=2 nf=1 m=2
XM148 casc_p casc_p casc_p AVDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=2 nf=1 m=20
XM149 AVDD AVDD AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=4 W=2 nf=1 m=12
XR5 AGND AGND AGND sky130_fd_pr__res_high_po_2p85 L=2.85*11.2 mult=1 m=1
XR7 AGND AGND AGND sky130_fd_pr__res_high_po_2p85 L=2.85*11.2 mult=1 m=1
XR8 AGND AGND AGND sky130_fd_pr__res_high_po_2p85 L=2.85*11.2 mult=1 m=1
* noconn trim0b_hv
* noconn trim1b_hv
* noconn trim3_hv
* noconn trim4_hv
.ends

* expanding   symbol:  level_shifter_up.sym # of pins=7
** sym_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_ak_ip__comparator/xschem/level_shifter_up.sym
** sch_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_ak_ip__comparator/xschem/level_shifter_up.sch
.subckt level_shifter_up VDD_HV xb_hv x_hv x_lv GND_HV VDD_LV GND_LV
*.PININFO VDD_HV:I GND_HV:I x_lv:I x_hv:O xb_hv:O VDD_LV:I GND_LV:I
XM65 xb_hv x_lv GND_HV GND_HV sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM66 x_hv xb_lv GND_HV GND_HV sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM67 xb_hv x_hv VDD_HV VDD_HV sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.5 nf=1 m=1
XM68 x_hv xb_hv VDD_HV VDD_HV sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.5 nf=1 m=1
XM1 xb_lv x_lv GND_LV GND_LV sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM3 xb_lv x_lv VDD_LV VDD_LV sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=2 nf=1 m=1
**.ends

.end
