** sch_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_am_ip__ldo_01v8/xschem/sky130_am_ip__ldo_01v8.sch
**.subckt sky130_am_ip__ldo_01v8 AVDD VOUT AVSS ENA VREF_EXT SEL_EXT DVDD DVSS
*.PININFO ENA:I AVDD:I AVSS:I VOUT:O SEL_EXT:I VREF_EXT:I DVDD:I DVSS:I
XM46 VX VBIAS_P AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=7 W=1 nf=1 m=1
XM48 net2 net2 AVSS AVSS sky130_fd_pr__nfet_g5v0d10v5 L=7 W=1 nf=1 m=1
XM52 VX VREF net1 AVSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=2 nf=1 m=1
XM53 VY VM net1 AVSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=2 nf=1 m=1
XM54 net1 VBIAS_N AVSS AVSS sky130_fd_pr__nfet_g5v0d10v5 L=9 W=3 nf=1 m=1
XM55 VERR net2 AVSS AVSS sky130_fd_pr__nfet_g5v0d10v5 L=7 W=1 nf=1 m=1
XM56 VY VBIAS_P AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=7 W=1 nf=1 m=1
XM57 VERR VBIAS_C VY AVDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM58 net2 VBIAS_C VX AVDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM59 AVSS VERR VPASS AVDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM60 VPASS VBIAS_P AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=7 W=1 nf=1 m=1
XR4 VM VOUT AVSS sky130_fd_pr__res_xhigh_po_0p35 L=180 mult=1 m=1
XR5 AVSS VM AVSS sky130_fd_pr__res_xhigh_po_0p35 L=360 mult=1 m=1
XM61 AVDD VPASS VOUT AVSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=5 nf=1 m=1000
XC1 VERR AVSS sky130_fd_pr__cap_mim_m3_1 W=15 L=15 m=3
XM62 net3 VBIAS_P AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=7 W=1 nf=1 m=1
XM63 VBIAS_P VBIAS_C net3 AVDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM64 net4 VBIAS_P AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=7 W=1 nf=1 m=1
XM65 VBIAS_N VBIAS_C net4 AVDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM66 VBIAS_P VBIAS_N net5 AVSS sky130_fd_pr__nfet_g5v0d10v5 L=9 W=1 nf=1 m=20
XM67 VBIAS_N VBIAS_N AVSS AVSS sky130_fd_pr__nfet_g5v0d10v5 L=9 W=1 nf=1 m=5
XM68 VBIAS_C VBIAS_C AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=10 W=1 nf=1 m=1
XM69 VBIAS_C VBIAS_N AVSS AVSS sky130_fd_pr__nfet_g5v0d10v5 L=9 W=1 nf=1 m=5
XM70 VDD_START VSTART VBIAS_N AVSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM71 net7 net7 AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=2 W=1 nf=1 m=1
XM72 net6 net6 net7 AVDD sky130_fd_pr__pfet_g5v0d10v5 L=2 W=1 nf=1 m=1
XM73 VSTART VSTART net6 AVDD sky130_fd_pr__pfet_g5v0d10v5 L=2 W=1 nf=1 m=1
XM74 VSTART VBIAS_N AVSS AVSS sky130_fd_pr__nfet_g5v0d10v5 L=9 W=1 nf=1 m=5
XM75 NSEL_EXT sel_ext_3v3 AVSS AVSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM76 NSEL_EXT sel_ext_3v3 AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=2.5 nf=1 m=1
XM77 VREF NSEL_EXT VREF_INT AVSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM78 VREF sel_ext_3v3 VREF_EXT AVSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XC3 VREF AVSS sky130_fd_pr__cap_mim_m3_1 W=5 L=5 m=1
XR6 AVSS net5 AVSS sky130_fd_pr__res_xhigh_po_0p35 L=40 mult=1 m=1
XM79 VREF_INT VBIAS_P AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=7 W=1 nf=1 m=1
XM80 net8 VREF_INT net9 AVSS sky130_fd_pr__nfet_g5v0d10v5 L=10 W=1 nf=1 m=1
XM81 VREF_INT VREF_INT net8 AVSS sky130_fd_pr__nfet_g5v0d10v5 L=10 W=1 nf=1 m=1
XM82 net9 VREF_INT AVSS AVSS sky130_fd_pr__nfet_g5v0d10v5 L=10 W=1 nf=1 m=1
XM83 NENA ena_3v3 AVSS AVSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM84 NENA ena_3v3 AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=2.5 nf=1 m=1
XM85 VBIAS_N NENA AVSS AVSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM86 VBIAS_C ena_3v3 AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM87 VERR NENA AVSS AVSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM88 VBIAS_P ena_3v3 AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM89 VPASS NENA AVSS AVSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM90 VDD_START NENA AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
x1 ENA DVDD DVSS DVSS AVDD AVDD ena_3v3 sky130_fd_sc_hvl__lsbuflv2hv_1
x2 SEL_EXT DVDD DVSS DVSS AVDD AVDD sel_ext_3v3 sky130_fd_sc_hvl__lsbuflv2hv_1
**.ends
.end
